US06288100B1
Phenyl-(2-propyl-1H-benzoimidazol-5-yl)-methanone
A mixture of 3,4 diaminobenzophenone (21.2 g; 0.1 mol) and ethyl butyrimidate hydrochloride (22.7 g; 0.15 mol) in ethanol (500 mL) was heated at reflux for a period of 6 hours. The mixture was stirred at ambient temperature for 18 hours. The solvent was evaporated and the residue was purified by flash chromatography on silica gel (EtOAc/Hexane; 1:1). Crystallization from ethyl acetate provided 12 g (45% yield) of the title compound as an off-white solid, m.p. 131-132° C. Anal. Calcd. for C17H16N2O: C, 77.25; H, 6.10; N, 10.60. Found: C, 77.20; H, 6.06; N, 10.72. Mass spectrum (EI; M+) m/z 264. 1H-NMR (DMSO-d6; 400 MHz) δ12.56 (br s, 1H), 7.84 (s, 1H), 7.73 (m, 2H), 7.65 (m, 1H), 7.60 (s, 2H), 7.56 (t, 2H), 2.82 (t, 2H), 1.80 (m, 2H), and 0.95 ppm (t, 3H).

reactant | 3,4 diaminobenzophenone | 0.1 mol, 21.2 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1N | C13H12N2O
reactant | ethyl butyrimidate hydrochloride | 0.15 mol, 22.7 g | Cl.C(CCC)(OCC)=N
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | Phenyl-(2-propyl-1H-benzoimidazol-5-yl)-methanone | 12 g, 45% yield | C1(=CC=CC=C1)C(=O)C1=CC2=C(NC(=N2)CCC)C=C1 | C17H16N2O
